US07217710B2
To a solution of 3-bromo-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine (2.6 g, 10 mmol) in dioxane (40 mL) and H2O (20 mL) was added anhydrous potassium carbonate (4.14 g, 30 mmol, 3 eq), followed by 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (3.28 g, 15 mmol, 1.5 eq). The reaction mixture was degassed and tetrakis(triphenylphosphine)palladium (58 mg, 0.5 mmol, 0.05 eq) was added. The system was then heated under reflux for 24 hours and cooled to room temperature. The mixture was treated with water (150 mL) and cooled to 0° C. and allowed to sit for three hours. The resulting mixture was then filtered. The filtrate was dried in a vacuum oven overnight to afford 1.66 g (61% yield) of 4-(1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-phenylamine; 1H-NMR (CDCl3): • 2.69 (s, 3H), 3.90 (br s, 2H), 4.08 (s, 3H), 6.82 (d, 2H), 7.77 (d, 2H), 9.11 (s, 1H); LC/MS (m/e)=272.4 (MH+). Rt=1.57 min.

reactant | 3-bromo-1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidine | 10 mmol, 2.6 g | BrC1=NN(C2=NC(=NC=C21)SC)C | C7H7BrN4S
reactant | potassium carbonate | 30 mmol, 4.14 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 15 mmol, 3.28 g, 1.5 eq | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.5 mmol, 58 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 150 mL | O | H2O
product | 4-(1-methyl-6-methylsulfanyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-phenylamine | 1.66 g, 61% yield | CN1N=C(C=2C1=NC(=NC2)SC)C2=CC=C(C=C2)N | C13H13N5S
